* Z:\home\hpsilva\Documents\ufpe_ee\5th semester\Circuits  II\Relatorio 2\Rekatirio2.asc
R1 N004 N003 470
C1 N005 N004 100n
R2 N004 0 470
C2 N001 N004 100n
R3 N001 N005 47000
XU2 0 N005 N002 N006 N001 LT1001
V2 N002 0 22
V3 0 N006 22
V4 N003 0 SINE(0 20 40)
.tran 0 10 0 0.1
.lib LTC.lib
.backanno
.end
