* Z:\home\hpsilva\Documents\ufpe_ee\5th semester\Electromagnetic Measurements\Projeto\Conversor Tensao.asc
V1 N001 0 SINE(0 24 60)
D1 0 N001 D
D2 0 0 D
D3 0 N002 D
D4 N001 N002 D
C1 N002 0 100µ
R1 N002 0 1k
.model D D
.lib C:\users\hpsilva\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 12u 60m
.backanno
.end
